US08703437B2
To the solution of 4-(benzyloxy)-3-hydroxybenzaldehyde (190 mg, 0.83 mmol) in anhydrous DMF (2.0 mL) was added 60% NaH (40 mg, 1.00 mmol) at 0° C. followed by the addition of 1-iodooctane (300 mg, 1.25 mmol). The reaction mixture was stirred at room temperature (r.t.) overnight and NH4Cl solution was then added. The mixture was extracted with ethyl acetate 3 times and the combined organic layers were dried and concentrated under vacuum. The resulting residue was purified through flash column chromatography (Hexane:Ethyl Acetate=10:1) to yield 4-(benzyloxy)-3-(octyloxy)benzaldehyde (235 mg, 83%) as light yellow oil, which was subsequently subjected to hydrogenolysis in ethyl acetate in the presence of 10% Pd/C. After filtration and concentration, the crude residue was purified by column chromatography (Hexane:Ethyl Acetate=5:1) to give 3 (125 mg, 72%) as light yellow oil. 1H NMR (CDCl3, 300 MHz) δ 9.80 (s, 1H), 7.36-7.42 (m, 2H), 7.03 (d, J=8.6 Hz, 1H), 6.44 (s, 1H), 4.09 (t, J=6.9 Hz, 2H), 1.82 (hexatet, J=6.7 Hz, 2H), 1.20-1.50 (m, 10H), 0.87 (t, J=6.8 Hz, 3H); 13C NMR (CDCl3, 75 MHz) δ 191.09, 151.96, 146.70, 129.90, 127.42, 114.44, 109.68, 69.30, 31.86, 29.37, 29.28, 29.09, 26.03, 22.73, 14.17; ESI-HRMS for [M+H]+ C15H23O3: calcd 251.1647, found 5251.1638.

reactant | 4-(benzyloxy)-3-hydroxybenzaldehyde | 0.83 mmol, 190 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)O | C14H12O3
reactant | NaH | 1.00 mmol, 40 mg | [H-].[Na+]
reactant | 1-iodooctane | 1.25 mmol, 300 mg | ICCCCCCCC | C8H17I
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 4-(benzyloxy)-3-(octyloxy)benzaldehyde | 235 mg, 83% | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OCCCCCCCC | C22H28O3
